US08119692B2
(S)-Methyl 2-((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoate (Intermediate G4)
To a solution of (5)-2((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoic acid in 5 mL methanol was added concentrated H2SO4 (50 mL) at room temperature and the resulting solution stirred for 16 h. The reaction mixture was concentrated under reduced pressure, the residue treated with water, and the mixture was extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with brine (2×10 mL) and dried over Na2SO4. The product was isolated by flash column chromatography eluting with 0% to 10% ethyl acetate/hexane gradient solvent to give 122 mg of the title compound as a colorless oil.

reactant | (5)-2((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoic acid | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)O)CC=C)OC)C | C15H19FO3
reactant | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 5 mL | CO | CH4O
product | (S)-Methyl 2-((R)-2-(4-fluoro-3-methylphenyl)-2-methoxyethyl)pent-4-enoate | 122 mg | FC1=C(C=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CC=C)OC)C | C16H21FO3
